US07294623B2
iv) (2R)-2-((R)-[4-methoxyphenyl]{[2-methoxyphenyl]thio}methyl)morpholine hydrochloride
Stirred (2S)-2-((S)-[4-methoxyphenyl]{[2-methoxyphenyl]thio }methyl)-4-benzylmorpholine (2R)-2-((R)-[4-methoxyphenyl]{[2-methoxyphenyl]thio }methyl)-4-benzylmorpholine (618 mg, 1.42 mmol) with solid supported Hunig's base (2.40 g, 8.52 mmol) and α-chloroethyl chloroformate (2.0 g, 14.21 mmol) in dichloromethane (12 ml) at room temperature under nitrogen for 4 h. Filtered and concentrated in vacuo, dissolved oil in methanol and heated at 60° C. for 1.5 h. Cooled to room temperature and purified by SCX column chromatography eluting with ammonia/methanol (ca. 3M) gave a colourless oil. The desired diastereomer was separated on chiralcel-OJ column eluting with heptane/ethanol/dimethylethylamine (20/80/0.2): 8.98 min. The required product was then obtained (60% de) after chiral chromatography on chiralpak-OD column eluting with heptane/isopropanol (70/30): 17.41 min. It was converted into the HCl salt, NMR (DMSO) 9.39 (2H, br. s), 7.3-7.1 (4H, m), 6.94-6.72 (4H, m), 4.6-4.5 (1H, m), 4.12-3.92 (2H, m), 3.85-3.62 (7H, m), 3.46-3.32 (1H, m), 3.20-3.08 (1H, m), 3.04-2.89 (2H, m). LCMS: m/z 346 [M+H]+ @ Rt 4.24 min.

reactant | (2S)-2-((S)-[4-methoxyphenyl]{[2-methoxyphenyl]thio }methyl)-4-benzylmorpholine (2R)-2-((R)-[4-methoxyphenyl]{[2-methoxyphenyl]thio }methyl)-4-benzylmorpholine | 1.42 mmol, 618 mg | COC1=CC=C(C=C1)[C@H]([C@H]1CN(CCO1)CC1=CC=CC=C1)SC1=C(C=CC=C1)OC.COC1=CC=C(C=C1)[C@@H]([C@@H]1CN(CCO1)CC1=CC=CC=C1)SC1=C(C=CC=C1)OC | 2C26H29NO3S
reactant | Hunig's base | 8.52 mmol, 2.40 g | CCN(C(C)C)C(C)C | C8H19N
reactant | α-chloroethyl chloroformate | 14.21 mmol, 2.0 g | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 12 ml | ClCCl | CH2Cl2
product | (2R)-2-((R)-[4-methoxyphenyl]{[2-methoxyphenyl]thio}methyl)morpholine hydrochloride | Cl.COC1=CC=C(C=C1)[C@H]([C@H]1CNCCO1)SC1=C(C=CC=C1)OC | InChI=1S/C19H23NO3S.ClH/c1-21-15-9-7-14(8-10-15)19(17-13-20-11-12-23-17)24-18-6-4-3-5-16(18)22-2;/h3-10,17,19-20H,11-13H2,1-2H3;1H/t17-,19-;/m1./s1
